US08314119B2
6-Fluoro-3,4′-bipyridine
Prepared from 5-bromo-2-fluoropyridine (881 mg, 5.00 mmol) and pyridin-4-ylboronic acid (979 mg, 7.96 mmol) according to Method K, except the product was purified by silica gel chromatography (10% ethanol in ethyl acetate, Rf=0.32) instead of preparative HPLC: 1H NMR (300 MHz, chloroform-D) δ ppm 7.08 (dd, J=8.5, 3.0 Hz, 1H), 7.48-7.50 (m, 2.14), 8.01-8.07 (m, 1H), 8.51 (d, J=2.7 Hz, 1H), 8.72-8.74 (m, 2H). MS (DCI/NH3) m/z=175 (M+H)+.

reactant | 5-bromo-2-fluoropyridine | 5.00 mmol, 881 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | pyridin-4-ylboronic acid | 7.96 mmol, 979 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 6-Fluoro-3,4′-bipyridine | FC1=CC=C(C=N1)C1=CC=NC=C1 | C10H7FN2
